US07312241B2
A solution of 4N HCl/dioxane (1 mL) was added to a stirred solution of 2-amino-N-{5-[2-cyano-1-(3,4,5-trimethoxy-phenyl)-vinyl]-2-methoxy-phenyl}-3-t-butoxy-propionamide (0.5 g, 1.1 mmol) in CH2Cl2 (10 mL). The resulting mixture was stirred at room temperature for 1 day. Ether (20 mL) was added and the mixture was stirred for 2 h. The slurry was filtered and washed with ether to afford mixture isomers of 2-amino-N-{5-[2-cyano-1-(3,4,5-trimethoxy-phenyl)-vinyl]-2-methoxy-phenyl}-3-hydroxy-propionamide hydrochloride (0.4 g, 78%) as white solid: mp 151-153° C.; 1H NMR (DMSO-d6) δ 9.89 (9.94) (s, 1H), 8.31 (b, 3H), 7.98-7.95 (m, 1H), 7.39-7.16 (m, 2H), 6.68 (6.65) (s, 2H), 6.12 (6.25) (s, 1H), 5.63 (b, 1H), 4.18 (b, 1H), 3.91 (d, J=8 Hz, 2H), 3.87-3.70 (m, 12H); 13C NMR (DMSO-d6) δ 166.20, 161.24 (160.99), 152.62, 151.52 (150.82), 139.43 (138.36), 133.54 (132.24), 129.80 (128.56), 126.60 (126.29), 126.16 (125.31), 122.99 (122.32),118.51 (118.47), 111.50 (111.16), 106.91 (106.26), 94.46 (93.64), 66.33, 60.33 (60.15), 56.15, 56.02, 54.43; Anal Calcd for C22H26N3O6Cl+0.2 H2O: C, 56.52; H, 5.69; N, 8.99; Cl, 7.58. Found: C, 56.29; H, 5.81; N, 8.63; Cl, 7.35.

reactant | HCl dioxane | 4N, 1 mL | Cl.O1CCOCC1
reactant | 2-amino-N-{5-[2-cyano-1-(3,4,5-trimethoxy-phenyl)-vinyl]-2-methoxy-phenyl}-3-t-butoxy-propionamide | 1.1 mmol, 0.5 g | NC(C(=O)NC1=C(C=CC(=C1)C(=CC#N)C1=CC(=C(C(=C1)OC)OC)OC)OC)COC(C)(C)C | C26H33N3O6
reactant | Ether | 20 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-amino-N-{5-[2-cyano-1-(3,4,5-trimethoxy-phenyl)-vinyl]-2-methoxy-phenyl}-3-hydroxy-propionamide hydrochloride | 0.4 g, 78% | Cl.NC(C(=O)NC1=C(C=CC(=C1)C(=CC#N)C1=CC(=C(C(=C1)OC)OC)OC)OC)CO | InChI=1S/C22H25N3O6.ClH/c1-28-18-6-5-13(9-17(18)25-22(27)16(24)12-26)15(7-8-23)14-10-19(29-2)21(31-4)20(11-14)30-3;/h5-7,9-11,16,26H,12,24H2,1-4H3,(H,25,27);1H
